US09388173B2
Step 2: 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-((6-(1-methyl-1H-benzo[d]imidazol-6-yl)pyrazin-2-yl)amino)propan-2-ol
To a flask containing 1-((6-chloropyrazin-2-yl)amino)-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol (200 mg, 0.6 mmol) in dioxane:H2O (3:1) was added 1-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazole (200 mg, 0.8 mmol), Cs2CO3 (2 equiv.) and Pd(dppfCl2) (10 mol %). The mixture was degassed 3 times with N2 before being heated at 110 deg C. overnight. Upon completion, the solvents were evaporated and residue purified with prep-HPLC to afford the desired target compound (32 mg, yield 13%). 1H NMR (400 MHz, MeOD): δ 8.27 (s, 1H), 8.18 (d, J=9.6 Hz, 2H), 7.99 (d, J=8.8 Hz, 1H), 7.86 (s, 1H), 7.72 (d, J=8.4 Hz, 1H), 7.09-6.99 (m, 3H), 6.87 (d, J=7.6 Hz, 1H), 4.21 (br.s, 1H), 3.86 (s, 3H), 3.84-3.54 (m, 4H), 2.89-2.66 (m, 6H). LCMS (m/z): 415.2 (M+1).

reactant | 1-((6-chloropyrazin-2-yl)amino)-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol | 0.6 mmol, 200 mg | ClC1=CN=CC(=N1)NCC(CN1CC2=CC=CC=C2CC1)O | C16H19ClN4O
reactant | 1-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazole | 0.8 mmol, 200 mg | CN1C=NC2=C1C=C(C=C2)B2OC(C(O2)(C)C)(C)C | C14H19BN2O2
reactant | Cs2CO3 | 2 equiv. | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane H2O | O1CCOCC1.O
product | 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-((6-(1-methyl-1H-benzo[d]imidazol-6-yl)pyrazin-2-yl)amino)propan-2-ol | 32 mg, yield 13% | C1N(CCC2=CC=CC=C12)CC(CNC1=NC(=CN=C1)C=1C=CC2=C(N(C=N2)C)C1)O | C24H26N6O
